US20010019823A1
Preparation of 2,3,5-Tri-O-Benzoyl-α,β-D-Ribofuranosyl Chloride
To a solution of 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose (3.02 g, 5.98 mmol) in dry dichloromethane (100 ml) was added via cannula a dichloromethane solution of titanium tetrachloride (1.13 g, 5.98 mmol, 5.98 ml of a 1M solution). The solution was stirred at room temperature for 1. 5 hours under argon, then washed with water (3×100 ml), dried over anhydrous magnesium sulfate and evaporated in vacuo to give the title compounds as a colourless oil (2.9 g, 1 00%). 1H nmr indicated it to be an approximately 1:1 mixture of α:β-anomers.

reactant | 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose | 5.98 mmol, 3.02 g | C(C)(=O)O[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C28H24O9
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
product | 2,3,5-Tri-O-Benzoyl-α,β-D-Ribofuranosyl Chloride | 2.9 g | C(C1=CC=CC=C1)(=O)O[C@H]1C(O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)Cl | C26H21ClO7
